### PR TITLE
[Merged by Bors] - feat(MvPowerSeries): subst_C and omit some finiteness of index set

### PR DESCRIPTION
**Pull request by WenrongZou**
---
I add some elementary lemma related to substitution of multi variate power series and omit some finiteness of index set (for example in `map_subst` and `HasSubst.X_pow`). 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by WenrongZou** [comment]
Also this PR avoid all finiteness of index set assumption in `MvPowerSeries.expand`.

File: Mathlib/Data/Finsupp/Basic.lean [hunk 1]
```diff
@@ -1311,4 +1311,28 @@ theorem sigmaFinsuppAddEquivPiFinsupp_apply {α : Type*} {ιs : η → Type*} [A
...
+    constructor
+    · intro hi
+      obtain ⟨j, hj⟩ := h i
+      simp only [mem_support_iff, hj, ne_eq, mul_eq_zero, not_or, Nat.div_eq_zero_iff,
+        not_lt] at hi ⊢
+      exact ⟨hi.1, Nat.le_mul_of_pos_right _ (Nat.pos_of_ne_zero hi.2)⟩
+    · intro hi
+      simp only [ne_eq, Nat.div_eq_zero_iff, not_or, not_lt,
+        Finsupp.mem_support_iff] at hi ⊢
+      omega
```
Comment (mariainesdff) [inline Mathlib/Data/Finsupp/Basic.lean]:
```suggestion
/-- Given a finitely supported function `d` where every value is divisible by `p`,
`d.divConst h` is the finitely supported function scaled down by `p`. -/
def divConst {p : ℕ} {d : α →₀ ℕ} (h : ∀ (i : α), p ∣ d i) : α →₀ ℕ where
  support := d.support
  toFun i := d i / p
  mem_support_toFun i := by 
    refine ⟨fun hi ↦ ?_, by aesop⟩
    obtain ⟨j, hj⟩ := h i
    simp only [mem_support_iff, hj, ne_eq, mul_eq_zero, not_or, Nat.div_eq_zero_iff, not_lt] at hi ⊢
    exact ⟨hi.1, Nat.le_mul_of_pos_right _ (Nat.pos_of_ne_zero hi.2)⟩
```

File: Mathlib/Data/Finsupp/Basic.lean [hunk 2]
```diff
@@ -1311,4 +1311,28 @@ theorem sigmaFinsuppAddEquivPiFinsupp_apply {α : Type*} {ιs : η → Type*} [A
...
+
+theorem mul_div_cancel' (p : ℕ) {d : α →₀ ℕ} (h : ∀ (i : α), p ∣ d i) :
+    d = p • Finsupp.div p h := by ext i; simp [Finsupp.div, (Nat.mul_div_cancel' (h i))]
```
Comment (mariainesdff) [inline Mathlib/Data/Finsupp/Basic.lean]:
```suggestion
theorem smul_divConst_cancel' {p : ℕ} {d : α →₀ ℕ} (h : ∀ (i : α), p ∣ d i) :
    p • divConst h = d := by ext i; simp [divConst, (Nat.mul_div_cancel' (h i))]
```

File: Mathlib/Data/Finsupp/Basic.lean (hunk 1 above)
Comment (WenrongZou) [reply Mathlib/Data/Finsupp/Basic.lean]: Thanks!

File: Mathlib/Data/Finsupp/Basic.lean (hunk 2 above)
Comment (WenrongZou) [reply Mathlib/Data/Finsupp/Basic.lean]: Thanks!

File: Mathlib/RingTheory/MvPowerSeries/Expand.lean [hunk 3]
```diff
@@ -219,8 +215,8 @@ theorem trunc'_expand [DecidableEq σ] {n : σ →₀ ℕ} (φ : MvPowerSeries 
     rw [coeff_trunc', if_neg hd]
 
 include hp in
-theorem trunc'_expand_trunc' {n m : σ →₀ ℕ} (h : n ≤ m) [DecidableEq σ] (f : MvPowerSeries σ R) :
-    (MvPolynomial.expand p) (trunc' R n f) = (trunc' R (p • n))
+theorem trunc'_expand_trunc' {n m : σ →₀ ℕ} (h : n ≤ m) [DecidableEq σ]
+    (f : MvPowerSeries σ R) : (MvPolynomial.expand p) (trunc' R n f) = (trunc' R (p • n))
```
Comment (chrisflav) [inline Mathlib/RingTheory/MvPowerSeries/Expand.lean]: This looks like an unrelated change, could you please revert it?

File: Mathlib/RingTheory/MvPowerSeries/Substitution.lean [hunk 4]
```diff
@@ -254,6 +275,19 @@ theorem substAlgHom_monomial (ha : HasSubst a) (e : σ →₀ ℕ) (r : R) :
...
+    (C r).subst a = MvPowerSeries.C r:= by
+  have : ∃ (p : MvPolynomial σ S), p.toMvPowerSeries = C r :=
+    ⟨MvPolynomial.C r, (MvPolynomial.coe_C r) ▸ rfl⟩
+  have eq_aux : this.choose = MvPolynomial.C r := by
+    obtain h := this.choose_spec
+    conv_rhs at h => rw [← MvPolynomial.coe_C]
+    norm_cast at h
+  simp_rw [subst, MvPowerSeries.eval₂, dif_pos this, eq_aux,
+    MvPolynomial.eval₂_C]
+  rfl
```
Comment (chrisflav) [inline Mathlib/RingTheory/MvPowerSeries/Substitution.lean]:
```suggestion
  simp [← MvPolynomial.coe_C, subst_coe, algebraMap_apply]
```
Note that also `simp [subst, algebraMap_apply]` works here, but it is better to not unfold the definition and work with the API lemmas.

File: Mathlib/RingTheory/MvPowerSeries/Substitution.lean [hunk 5]
```diff
@@ -154,9 +163,17 @@ theorem hasSubst_of_constantCoeff_zero [Finite σ]
...
+    HasSubst (fun (s : σ) ↦ (X s : MvPowerSeries σ S) ^ n) where
+  const_coeff := by simp [zero_pow hn]
+  coeff_zero d := by
+    classical
+    simp only [X_pow_eq, coeff_monomial, ne_eq, ite_eq_right_iff, Classical.not_imp]
+    by_cases! hd : ∃ i, d = Finsupp.single i n
+    · obtain ⟨i, hd⟩ := hd
+      exact Set.Finite.subset (Set.finite_singleton i)
+        <| fun j hj => Set.mem_singleton_of_eq <| (Finsupp.single_left_inj hn).mp (hj.1 ▸ hd)
+    exact (Set.sep_eq_empty_iff_mem_false.mpr fun x a _ ↦ hd x a) ▸ Set.finite_empty
```
Comment (chrisflav) [inline Mathlib/RingTheory/MvPowerSeries/Substitution.lean]:
```suggestion
protected lemma HasSubst.pow {n : ℕ} (hn : n ≠ 0) {a : σ → MvPowerSeries τ S} (h : HasSubst a) :
    HasSubst (a ^ n) :=
  hasSubstIdeal.pow_mem_of_mem h _ (by lia)

protected theorem HasSubst.X_pow {n : ℕ} (hn : n ≠ 0) :
    HasSubst (fun (s : σ) ↦ (X s : MvPowerSeries σ S) ^ n) :=
  HasSubst.X.pow (by lia)
```

File: Mathlib/RingTheory/MvPowerSeries/Substitution.lean [hunk 6]
```diff
@@ -128,6 +128,15 @@ protected theorem HasSubst.X : HasSubst (fun (s : σ) ↦ (X s : MvPowerSeries 
...
   simpa [hasSubst_iff_hasEval_of_discreteTopology] using HasEval.X
 
+omit [Algebra R S] in
+protected theorem HasSubst.map {a : σ → MvPowerSeries τ R} (ha : HasSubst a) (h : R →+* S) :
+    HasSubst fun i ↦ (map h) (a i) where
+  const_coeff s := (ha.const_coeff s).map h
+  coeff_zero d := Set.Finite.subset (ha.coeff_zero d) fun s hs => by
+    simp only [coeff_map, ne_eq, Set.mem_setOf_eq] at ⊢ hs
+    by_contra hc
+    simp [hc] at hs
```
Comment (chrisflav) [inline Mathlib/RingTheory/MvPowerSeries/Substitution.lean]:
```suggestion
  const_coeff s := (ha.const_coeff s).map h
  coeff_zero d := (ha.coeff_zero d).subset (by grind [coeff_map])
```

File: Mathlib/Data/Finsupp/Basic.lean [hunk 7]
```diff
@@ -1311,4 +1311,22 @@ theorem sigmaFinsuppAddEquivPiFinsupp_apply {α : Type*} {ιs : η → Type*} [A
 
 end Sigma
 
+section Div
+
+/-- Given a finitely supported function `d` where every value is divisible by `p`,
+`d.divConst h` is the finitely supported function scaled down by `p`. -/
+def divConst {p : ℕ} {d : α →₀ ℕ} (h : ∀ (i : α), p ∣ d i) : α →₀ ℕ where
```
Comment (chrisflav) [inline Mathlib/Data/Finsupp/Basic.lean]: Could you point to a place where you use this? Does the def-eq of the support matter in your application? If it does not, this could be implemented as:
```
def divConst {p : ℕ} {d : α →₀ ℕ} : α →₀ ℕ :=
  d.mapRange (fun a ↦ a / p) (by simp)
```
And then it is not so clear that we need this definition.

File: Mathlib/RingTheory/MvPowerSeries/Substitution.lean (hunk 4 above)
Comment (WenrongZou) [reply Mathlib/RingTheory/MvPowerSeries/Substitution.lean]: Thanks!

File: Mathlib/RingTheory/MvPowerSeries/Expand.lean (hunk 3 above)
Comment (WenrongZou) [reply Mathlib/RingTheory/MvPowerSeries/Expand.lean]: Thanks!

File: Mathlib/Data/Finsupp/Basic.lean (hunk 7 above)
Comment (WenrongZou) [reply Mathlib/Data/Finsupp/Basic.lean]: `Finsupp.mapRange` is good. We don't need the `divConst`. Thanks!

**Review by chrisflav — APPROVED** [review]
Thanks!
maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
